US09422312B2
Step 1: N-(4-Bromophenyl)methanesulfinamide
A solution of methanesulfinyl chloride (2.06 g) in dichloromethane (20 mL) is added drop wise to an ice-cooled mixture of 4-bromoaniline (3.00 g) and N,N-diisopropylethylamine (10.63 mL) in dichloromethane (20 mL). The reaction mixture is allowed to warm to room temperature and stirred for 5 h. Water is added to the mixture and the organic phase is separated, washed with water, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 50:500:100) to give the title compound. LC (method 1): tR=0.82 min; Mass spectrum (ESI+): m/z=234, 236 [M+H]+.

reactant | methanesulfinyl chloride | 2.06 g | CS(=O)Cl | CH3ClOS
reactant | 4-bromoaniline | 3.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | N,N-diisopropylethylamine | 10.63 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4-Bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
